US08609848B2
56 g 7-methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran are dissolved in 200 ml 2-methyltetrahydrofuran, 58 g N-bromosuccinimide are added portion wise, while keeping the temperature of the reaction mixture below 50° C., and the reaction is stirred for one hour at RT. Water and diethyl ether are added to the reaction mixture, the phases are separated, the organic phase is washed with 1 M aqueous sodium carbonate solution, dried over MgSO4, and the solvent is removed under reduced pressure. The resulting crude product is purified by distillation under vacuum yielding 5-bromo-7-methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran.

reactant | 7-methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran | 56 g | COC1=CC=CC=2CC(OC21)(C)C | C11H14O2
reactant | N-bromosuccinimide | 58 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 2-methyltetrahydrofuran | 200 ml | CC1OCCC1 | C5H10O
product | 5-bromo-7-methoxy-2,2-dimethyl-2,3-dihydro-1-benzofuran | BrC=1C=C(C2=C(CC(O2)(C)C)C1)OC | C11H13BrO2
